datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]#[N:82])C=C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[CH:20]([C:10](C1=CC=CC=C1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:81]#[N:82])[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10=20;20,21=21"
"C1[C:11]([O-:12])=[N:10][C:61](=[O:62])[O:72]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([N:10]2[C:11](=[O:12])C[O:72][C:61]2=[O:62])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si:11](C)([H:10])[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Si+:11](C)[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C 10,11=10,20"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.C[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:61]2=[CH:62][C:63](C)=[CH:64][CH:73]=[CH:72]2)[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CC1=CC=[C:10]([B-:11]([F:62])([F:72])[F:82])O1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([C:10]1=CC=C(C)O1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[B:11]([F:62])([F:72])[F:82] 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:11](C)([H:10])[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1.C[Si+:11](C)[CH:62]([Si:63](C)(C)C)[Si:73](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C1=C[C:61]2=[C:62](C=C1)[N:72]=[CH:71][N-:10]2>>C1=CC=C([C:22]2=[CH:21][CH:20]([N:10]3[C:61]4=[C:62](C=CC=C4)[N:72]=[CH:71]3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[CH:10]#[C:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C1CC[N:21]([CH:20]([CH:10]=[C+:11][C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1 10,11=10,20;20,21=21"
"CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:11](=[O:12])[N:82](CC)CC)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>C1=CC=C([C:20]2([CH:10]([N+:61]#[N:62])[C:71]3=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]3)[S:31]CCC[S:41]2)C=C1 10=20
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.CO[C-:10]([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92]>>CO[C:10]([CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.F[B-:63](F)(F)[CH2:62][CH:11]=[CH2:10]>>C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([CH2:10][CH+:11][CH2:62][B-:63](F)(F)F)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([CH:10]([C:11]#[N:12])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28 10,11=10,20;12=11,12"
